US07935815B2
Synthesis of (8S)-2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-[2-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine (2S,3S)-2,3-bis(benzoyloxy)succinate (1/1)
2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-[2-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine (100 mg, 0.208 mmol) was dissolved in the mixture of 2-propanol (1.6 mL) and acetonitrile (2.0 mL) at 45° C., and the solution of (2S,3S)-2,3-bis(benzoyloxy)succinic acid (D-DBTA) (89.5 mg, 0.250 mmol) in acetonitrile (1.6 mL) was added. Traces of seed crystal of the title compound which was obtained by the method similar to this step was added to the solution at 33° C., and the mixture was stirred at room temperature for 18 hours. The solids were collected by filtration, washed with acectonitrile/2-propanol=2/1 (0.5 mL) and dried at 50° C. under the reduced pressure to obtain the title compound (62.3 mg, 35.7% yield, 90.7% de). The title compound (50.7 mg, 90.7% de) was suspended in acectonitrile/2-propanol=1/1 (0.5 mL), and the mixture was stirred at 80° C. for 25 minutes, and then stirred at room temperature for 15 hours. The solids were collected by filtration and dried at 50° C. under the reduced pressure to obtain the title compound (35.9 mg, 70.8% yield, 98.1% de)

reactant | 2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-[2-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 0.208 mmol, 100 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O
reactant | (2S,3S)-2,3-bis(benzoyloxy)succinic acid | 0.250 mmol, 89.5 mg | C(C1=CC=CC=C1)(=O)O[C@H](C(=O)O)[C@@H](C(=O)O)OC(C1=CC=CC=C1)=O | C18H14O8
solvent | 2-propanol | 1.6 mL | CC(C)O | C3H8O
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1.6 mL | C(C)#N | C2H3N
product | (8S)-2-{(E)-2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-[2-(trifluoromethyl)phenyl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine (2S,3S)-2,3-bis(benzoyloxy)succinate | C(C1=CC=CC=C1)(=O)O[C@H](C(=O)O)[C@@H](C(=O)O)OC(C1=CC=CC=C1)=O.COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | InChI=1S/C25H23F3N6O.C18H14O8/c1-16-14-33(15-29-16)21-11-9-17(30-24(21)35-2)10-12-22-31-23-19(7-5-13-34(23)32-22)18-6-3-4-8-20(18)25(26,27)28;19-15(20)13(25-17(23)11-7-3-1-4-8-11)14(16(21)22)26-18(24)12-9-5-2-6-10-12/h3-4,6,8-12,14-15,19H,5,7,13H2,1-2H3;1-10,13-14H,(H,19,20)(H,21,22)/b12-10+;/t19-;13-,14-/m00/s1
